subckt sky130_fd_pr__pfet_g5v0d16v0_base (d g s b)
parameters mult=1 l=1 w=1
parameters nf=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0
Msky130_fd_pr__pfet_g5v0d16v0_base (d g s b) m_pvhv_model_base l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs * sw_rdp / sw_pw_rs sa=sa sb=sb sd=sd nf=nf delvto=-0.0005 + sw_vth0_sky130_fd_pr__pfet_g5v0d16v0 * (0.008 * 2.2 / l + 0.992) * (0.0007 * 44 / (w * l) + 0.9993) + sw_mm_vth0_sky130_fd_pr__pfet_g5v0d16v0 * mismatch_factor * mc_mm_switch * 0 / sqrt(l * w * mult) + sw_vth0_sky130_fd_pr__pfet_g5v0d16v0_mc
@if l*$scale >= 6.6e-7 && l*$scale < 2.16e-6 && w*$scale >= 5.0e-6 && w*$scale < 0.00101
    model m_pvhv_model_base sp_bsim4v8       binunit=2 mobmod=0 capmod=2 rdsmod=1 igcmod=0 igbmod=0 rbodymod=1 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=1 diomod=1 permod=1 geomod=0 rgatemod=0 epsrox=3.9 toxe=1.16E-8 toxm=1.16E-8 xj=1.5E-7 ndep=1.7E17 ngate=1E23 nsd=1E20 rsh=sw_pw_rs rshg=0.1 phin=0 wint=0 + sw_activecd wl=0 wln=1 ww=0 wwn=1 wwl=0 lint=3.4453E-8 - sw_polycd ll=0 lln=1 lw=0 lwn=1 lwl=0 llc=0 lwc=0 lwlc=0 wlc=0 wwc=0 wwlc=0 dwg=0 dwb=0 xl=0 xw=0 dmcg=0 dmdg=0 dmcgt=0 xgw=0 xgl=0 ngcon=1 vth0=-1.112786 lvth0=2.237055E-8 k1=0.6831 k2=-1.3032E-3 k3=0 k3b=0 w0=0 lpe0=1.4E-7 lpeb=-6.5E-8 vbm=-3 dvtp0=0 dvtp1=0 dvt0=0 dvt1=0.53 dvt2=-0.032 dvt0w=0 dvt1w=5.3E6 dvt2w=-0.032 u0=2.68468E-2 lu0=-1.449455E-9 ua=2.5856E-9 ub=4.5958E-19 uc=-1.22E-10 eu=1.67 vsat=7.6608E4 a0=0.382 ags=0.12912 b0=4E-12 b1=0 keta=-0.033218 a1=0 a2=0.72 rdsw=331.02 rdswmin=0 rdw=10 rdwmin=0 rsw=100 rswmin=0 prwb=-4E-4 prwg=0 wr=1 voff=-0.1372 voffl=0 minv=0 nfactor=0.71 eta0=0.087298 etab=-0.05 dsub=0.3416 cit=0 cdsc=2.52E-4 cdscb=0 cdscd=0 pclm=0.1 pdiblc1=0.39 pdiblc2=8.6E-3 pdiblcb=-5.4E-5 drout=0.56 pscbe1=5.088E8 pscbe2=6.9452E-9 pvag=0.504 delta=8.9E-3 fprout=0 pdits=0 pditsl=0 pditsd=0 alpha0=2E-7 alpha1=1.001 beta0=100 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1 aigbinv=0.35 bigbinv=0.03 cigbinv=6E-3 eigbinv=1.1 nigbinv=3 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1 poxedge=1 pigcd=1 ntox=1 toxref=1.16E-8 agidl=1.65E-10 bgidl=5.9993E9 cgidl=1.394 egidl=0.0492 noia=6.25E41 noib=3.125E26 noic=8.75E9 em=4.1E7 ef=1 xpart=0 cgso=1.9771E-10 / sw_func_tox_hv_ratio cgdo=1.9771E-10 / sw_func_tox_hv_ratio cgbo=0 / sw_func_tox_hv_ratio ckappas=0.6 ckappad=0.6 cf=0 clc=6.324E-9 cle=0.891 dlc=-9.6826E-8 dwc=0 vfbcv=-1 noff=1.045 voffcv=-0.18151 acde=0.91298 moin=15.562 cgsl=1.152E-12 / sw_func_tox_hv_ratio cgdl=1.1172E-12 / sw_func_tox_hv_ratio ijthsrev=0.1 ijthsfwd=0.1 xjbvs=1 bvs=12.69 jss=2.1483E-5 jsws=4.02E-12 jtssws=0 cjs=8.310E-04 * sw_func_nsd_pw_cj mjs=0.33956 mjsws=0.24676 cjsws=9.960545E-11 * sw_func_nsd_pw_cj cjswgs=1.47314E-10 * sw_func_nsd_pw_cj mjswgs=0.81 pbs=0.6587 pbsws=1 pbswgs=3 tnom=30 ute=-1.6462 kt1=-0.49308 kt1l=1E-11 kt2=5.6338E-4 ua1=1.2181E-9 ub1=-1.2412E-18 uc1=8.272E-12 at=-6.4E4 prt=0 njs=1.3632 njd=1.0791 xtis=10 xtid=3 tpb=1.671E-3 tpbsw=0 tpbswg=0 tcj=9.6E-4 tcjsw=3E-5 tcjswg=0 tvoff=0.015 saref=2.8E-7 sbref=1.19E-6 wlod=0 ku0=2.218E-7 kvsat=0.4 kvth0=5.2302E-9 tku0=0 llodku0=1 wlodku0=1 llodvth=1 wlodvth=1 lku0=8.7129E-7 wku0=0 pku0=0 lkvth0=-4.8631E-7 wkvth0=5.398E-7 pkvth0=0 stk2=0 lodk2=1 steta0=0 lodeta0=1 type=-1
@elseif l*$scale >= 2.16e-6 && l*$scale < 2.02e-5 && w*$scale >= 5.0e-6 && w*$scale < 0.00101
    model m_pvhv_model_base sp_bsim4v8       binunit=2 mobmod=0 capmod=2 rdsmod=1 igcmod=0 igbmod=0 rbodymod=1 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=1 diomod=1 permod=1 geomod=0 rgatemod=0 epsrox=3.9 toxe=1.16E-8 toxm=1.16E-8 xj=1.5E-7 ndep=1.7E17 ngate=1E23 nsd=1E20 rsh=sw_pw_rs rshg=0.1 phin=0 wint=0 + sw_activecd wl=0 wln=1 ww=0 wwn=1 wwl=0 lint=3.4453E-8 - sw_polycd ll=0 lln=1 lw=0 lwn=1 lwl=0 llc=0 lwc=0 lwlc=0 wlc=0 wwc=0 wwlc=0 dwg=0 dwb=0 xl=0 xw=0 dmcg=0 dmdg=0 dmcgt=0 xgw=0 xgl=0 ngcon=1 vth0=-1.102088 k1=0.6831 k2=-1.3032E-3 k3=0 k3b=0 w0=0 lpe0=1.4E-7 lpeb=-6.5E-8 vbm=-3 dvtp0=0 dvtp1=0 dvt0=0 dvt1=0.53 dvt2=-0.032 dvt0w=0 dvt1w=5.3E6 dvt2w=-0.032 u0=2.61536E-2 ua=2.5856E-9 ub=4.5958E-19 uc=-1.22E-10 eu=1.67 vsat=7.6608E4 a0=0.382 ags=0.12912 b0=4E-12 b1=0 keta=-0.033218 a1=0 a2=0.72 rdsw=331.02 rdswmin=0 rdw=10 rdwmin=0 rsw=100 rswmin=0 prwb=-4E-4 prwg=0 wr=1 voff=-0.1372 voffl=0 minv=0 nfactor=0.71 eta0=0.087298 etab=-0.05 dsub=0.3416 cit=0 cdsc=2.52E-4 cdscb=0 cdscd=0 pclm=0.1 pdiblc1=0.39 pdiblc2=8.6E-3 pdiblcb=-5.4E-5 drout=0.56 pscbe1=5.088E8 pscbe2=6.9452E-9 pvag=0.504 delta=8.9E-3 fprout=0 pdits=0 pditsl=0 pditsd=0 alpha0=2E-7 alpha1=1.001 beta0=100 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1 aigbinv=0.35 bigbinv=0.03 cigbinv=6E-3 eigbinv=1.1 nigbinv=3 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1 poxedge=1 pigcd=1 ntox=1 toxref=1.16E-8 agidl=1.65E-10 bgidl=5.9993E9 cgidl=1.394 egidl=0.0492 noia=6.25E41 noib=3.125E26 noic=8.75E9 em=4.1E7 ef=1 xpart=0 cgso=1.9771E-10 / sw_func_tox_hv_ratio cgdo=1.9771E-10 / sw_func_tox_hv_ratio cgbo=0 / sw_func_tox_hv_ratio ckappas=0.6 ckappad=0.6 cf=0 clc=6.324E-9 cle=0.891 dlc=-9.6826E-8 dwc=0 vfbcv=-1 noff=1.045 voffcv=-0.18151 acde=0.91298 moin=15.562 cgsl=1.152E-12 / sw_func_tox_hv_ratio cgdl=1.1172E-12 / sw_func_tox_hv_ratio ijthsrev=0.1 ijthsfwd=0.1 xjbvs=1 bvs=12.69 jss=2.1483E-5 jsws=4.02E-12 jtssws=0 cjs=8.310E-04 * sw_func_nsd_pw_cj mjs=0.33956 mjsws=0.24676 cjsws=9.960545E-11 * sw_func_nsd_pw_cj cjswgs=1.47314E-10 * sw_func_nsd_pw_cj mjswgs=0.81 pbs=0.6587 pbsws=1 pbswgs=3 tnom=30 ute=-1.6462 kt1=-0.49308 kt1l=1E-11 kt2=5.6338E-4 ua1=1.2181E-9 ub1=-1.2412E-18 uc1=8.272E-12 at=-6.4E4 prt=0 njs=1.3632 njd=1.0791 xtis=10 xtid=3 tpb=1.671E-3 tpbsw=0 tpbswg=0 tcj=9.6E-4 tcjsw=3E-5 tcjswg=0 tvoff=0.015 saref=2.8E-7 sbref=1.19E-6 wlod=0 ku0=2.218E-7 kvsat=0.4 kvth0=5.2302E-9 tku0=0 llodku0=1 wlodku0=1 llodvth=1 wlodvth=1 lku0=8.7129E-7 wku0=0 pku0=0 lkvth0=-4.8631E-7 wkvth0=5.398E-7 pkvth0=0 stk2=0 lodk2=1 steta0=0 lodeta0=1 type=-1
@end

ends // sky130_fd_pr__pfet_g5v0d16v0_base
